US04000143
Reaction of 5-ethyl-2-(o-formamidophenethyl)pyridine with methyl iodide in acetone according to the procedure of Example 2 (c) for 2-(o-formamidophenethyl)pyridine provides a 74% yield of analytically pure 5-ethyl-2-(o-formamidophenethyl)-1-methylpyridinium iodide having a melting point of 134° -136.5° C.

reactant | 5-ethyl-2-(o-formamidophenethyl)pyridine | C(C)C=1C=CC(=NC1)CCC1=C(C=CC=C1)NC=O | C16H18N2O
reactant | methyl iodide | CI | CH3I
reactant | 2-(o-formamidophenethyl)pyridine | C(=O)NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C14H14N2O
solvent | acetone | CC(=O)C | C3H6O
product | 5-ethyl-2-(o-formamidophenethyl)-1-methylpyridinium iodide | 74% yield | [I-].C(C)C=1C=CC(=[N+](C1)C)CCC1=C(C=CC=C1)NC=O | InChI=1S/C17H20N2O.HI/c1-3-14-8-10-16(19(2)12-14)11-9-15-6-4-5-7-17(15)18-13-20;/h4-8,10,12-13H,3,9,11H2,1-2H3;1H
